US07989645B2
To a solution of 5.6 gm of (S)-(−)-4-[4-(dimethylamino)-1-(4-fluorophenyl)-1-hydroxy-1-butyl]-3-(hydroxymethyl)benzonitrile in 85 ml THF was added 2.02 gm of potassium tertiary butoxide at 0-10° C. and stirred for 10 min. 3.14 gm of 2,5-dichloronitrobenzene was added to the reaction mixture at 0-10° C. and stirred for 10-15 hrs at RT (30-35° C.), solvent distilled under vacuum and 40 ml of water was added, and extracted with toluene, toluene layer was washed with water and 10% sodium hydroxide solution and distilled to get an oily product, which is purified by column chromatography using silica gel and ethylacetate, Wt: 500 mg. The above oily product was dissolved in 10 ml of isopropanol (IPA) at 30° C. and 2.0 ml of IPA-HCl was added, stirred and solvent distilled under vacuum and crystallized in IPA to get (−)-4-[4-(dimethylamino)-1-(4-fluorophenyl)-1-hydroxy-1-butyl]-3-(2-nitro-4-chlorophenoxymethyl)-benzonitrile hydrochloride whose structure was confirmed by IR, NMR and Mass spectral data.

reactant | (S)-(−)-4-[4-(dimethylamino)-1-(4-fluorophenyl)-1-hydroxy-1-butyl]-3-(hydroxymethyl)benzonitrile | 5.6 gm | CN(CCC[C@](O)(C1=CC=C(C=C1)F)C1=C(C=C(C#N)C=C1)CO)C | C20H23FN2O2
reactant | potassium tertiary butoxide | 2.02 gm | CC(C)([O-])C.[K+]
reactant | 2,5-dichloronitrobenzene | 3.14 gm | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
solvent | THF | 85 ml | C1CCOC1 | C4H8O
product | (−)-4-[4-(dimethylamino)-1-(4-fluorophenyl)-1-hydroxy-1-butyl]-3-(2-nitro-4-chlorophenoxymethyl)-benzonitrile hydrochloride | Cl.CN(CCCC(O)(C1=CC=C(C=C1)F)C1=C(C=C(C#N)C=C1)COC1=C(C=C(C=C1)Cl)[N+](=O)[O-])C | InChI=1S/C26H25ClFN3O4.ClH/c1-30(2)13-3-12-26(32,20-5-8-22(28)9-6-20)23-10-4-18(16-29)14-19(23)17-35-25-11-7-21(27)15-24(25)31(33)34;/h4-11,14-15,32H,3,12-13,17H2,1-2H3;1H
